US06166048
The manner in which optically active forms of arylmethoxy aliphatic amines, such as (2S)-N-methyl-1-[(3-aminophenyl)methoxy]-propan-2-amine type compounds, are provided can vary. In one approach, a 3-aminobenzyl alcohol type compound (N-protected as the phthalimide) can be alkylated with a chiral 1-bromo-2-propanol type compound containing an O-protecting group, such as (1S)-2-(2-bromo-1-methylethoxy)tetrahydro-2H-pyran using a base such as sodium hydride and a solvent such as N,N-dimethylformamide or tetrahydrofuran. The tetrahydropyranyl protecting group of the resulting chiral arylmethyl ether type compound can be removed with aqueous sulfuric acid in methanol, affording (2S)-1-[(3-aminophenyl)methoxy]-propan-2-ol. The resulting chiral alcohol intermediate can be converted to its corresponding tosylate, followed by tosylate displacement with methylamine with inversion of configuration, and finally removal of the N-phthaloyl group to give the chiral amine (2R)-N-methyl-1-[(3-aminophenyl)methoxy]-propan-2-amine. Chiral side chain compounds such as (1S)-2-(2-bromo-1-methylethoxy)tetrahydro-2H-pyran can be prepared from (2S)-1-bromo-2-propanol by treatment with 3,4-dihydro-2H-pyran in dichloromethane with p-toluenesulfonic acid as a catalyst according to the method of S. A. M. Nieuwenhuis et al., Tetrahedron 50: 13207-13230 (1994). The required (2S)-1-bromo-2-propanol can be obtained from (S)-propylene oxide (commercially available from Fluka) by treatment with hydrogen bromide in acetic acid at 0° C. The corresponding optical antipode, (2R)-N-methyl-1-[(3-aminophenyl)methoxy]-propan-2-amine can be prepared in an analogous manner from (R)-propylene oxide (commercially available from Fluka) by using the synthetic procedure of S. A. M. Nieuwenhuis et al. to prepare the tetrahydropyranyl ether of (2R)-1-bromo-2-propanol and by using the synthetic sequence described above.

reactant | 3-aminobenzyl alcohol | NC=1C=C(CO)C=CC1 | C7H9NO
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | 1-bromo-2-propanol | BrCC(C)O | C3H7BrO
reactant | (1S)-2-(2-bromo-1-methylethoxy)tetrahydro-2H-pyran | BrC[C@@H](OC1OCCCC1)C | C8H15BrO2
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (2S)-1-[(3-aminophenyl)methoxy]-propan-2-ol | NC=1C=C(C=CC1)COC[C@H](C)O | C10H15NO2
